US07645753B2
Ethoxy-2-nitro-4-trifluoromethyl-phenylamine
To ethanol (500 mL) was added potassium metal (ca. 21 g, ca. 537 mmol, ca. 2.24 equiv) and the vigorous reaction had to be cooled with an ice bath. Stirring was continued until all potassium metal was dissolved. Solid commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine (57.74 g, 240 mmol, 1.0 equiv, [CAS RN 35375-74-7]) was added in one portion and the resulting dark red mixture was stirred at 55-60° C. for 4 d. The warm reaction mixture was slowly poured into water (ca. 2000 mL), the pH adjusted with a solution of 1 M HCl to 2, the yellow precipitate filtered off, washed with water and dried in air at 60° C. to give 57.81 g (96%) of the title compound as a yellow solid which was used without further purification. MS (ISN): 249.0 [M−H]−.

reactant | ethanol | 500 mL | C(C)O | C2H6O
reactant | potassium | ca. 537 mmol, ca. 21 g, ca. 2.24 equiv | [K] | K
reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | 240 mmol, 57.74 g, 1.0 equiv | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | HCl | 1 M | Cl | ClH
solvent | water | ca. 2000 mL | O | H2O
product | Ethoxy-2-nitro-4-trifluoromethyl-phenylamine | 57.81 g, 96% | C(C)ONC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C9H9F3N2O3
